US04692449
6[4-(Phenylmethyl)-1-piperazinyl]-5,8-quinoxalinedione
A mixture of 160 mg of 5,8-quinoxalinedione and 352 mg of 1-benzylpiperazine in 10 ml of dioxane was stirred or 3 hours. The solvent was then removed and the residue triturated with ether. This solid was collected, washed with ether and dried, giving 110 mg of the desired product, mp 165°-168° C. (dec.).

reactant | 5,8-quinoxalinedione | 160 mg | N1=CC=NC=2C(C=CC(C12)=O)=O | C8H4N2O2
reactant | 1-benzylpiperazine | 352 mg | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 6[4-(Phenylmethyl)-1-piperazinyl]-5,8-quinoxalinedione | 110 mg | C1(=CC=CC=C1)CN1CCN(CC1)C=1C(C=2N=CC=NC2C(C1)=O)=O | C19H18N4O2
